US07109219B2
N1-Methyl-5-(2-((4-(pyrrolidin-1-yl)piperidin-1-yl)carbonyl)amino-5-cyano-4-pyridyl)amino-1H-1-indolecarboxamide
N1-Methyl-5-(2-amino-5-cyano-4-pyridyl)amino-1H-1-indolecarboxamide (50 mg, 0.16 mmol) was suspended in tetrahydrofuran (1 ml) at room temperature; triethylamine (0.057 ml, 0.41 mmol) and phenyl chloroformate (0.041 ml, 0.325 mmol) was added thereto while stirring; and the reaction mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture; this was subjected to extraction with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. N,N-Dimethylformamide (0.5 ml) and 4-(1-pyrrolidinyl)piperidine (100 mg, 0.648 mmol) was added to the residue; and the reaction mixture was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water; and the organic layer was dried over anhydrous sodium sulfate. This was concentrated under reduced pressure; and the residue was purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate-methanol) to yield the title compound (65 mg, 0.134 mmol).

reactant | N1-Methyl-5-(2-amino-5-cyano-4-pyridyl)amino-1H-1-indolecarboxamide | 0.16 mmol, 50 mg | CNC(=O)N1C=CC2=CC(=CC=C12)NC1=CC(=NC=C1C#N)N | C16H14N6O
reactant | triethylamine | 0.41 mmol, 0.057 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.325 mmol, 0.041 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-(1-pyrrolidinyl)piperidine | 0.648 mmol, 100 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | N,N-Dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N1-Methyl-5-(2-((4-(pyrrolidin-1-yl)piperidin-1-yl)carbonyl)amino-5-cyano-4-pyridyl)amino-1H-1-indolecarboxamide | 0.134 mmol, 65 mg | CNC(=O)N1C=CC2=CC(=CC=C12)NC1=CC(=NC=C1C#N)NC(=O)N1CCC(CC1)N1CCCC1 | C26H30N8O2
